US07901594B2
2,3-Bis(hydroxymethyl)-1,4,5,6,7,8-hexapropylanthracene
Dimethyl 1,4,5,6,7,8-hexapropylanthracene-2,3-dicarboxylate obtained in REFERENCE EXAMPLE 2 was used. After lithium aluminum hydride was added to the solution of dimethyl 1,4,5,6,7,8-hexapropylanthracene-2,3-dicarboxylate in diethyl ether at 0° C., the mixture was warmed to room temperature and stirred for an hour. At room temperature, water was added to terminate the reaction. Next, the reaction mixture was rendered slightly acidic with 2N sulfuric acid and extracted with ether. After washing with brine, the extract was dried over anhydrous magnesium sulfate. Column chromatography with silica gel as the packing material was performed using hexane. Recrystallization from hexane gave 6.637 g (13.846 mmols) of the title compound as a light yellow solid. The isolation yield was 98%.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | dimethyl 1,4,5,6,7,8-hexapropylanthracene-2,3-dicarboxylate | C(CC)C1=C(C(=C(C2=CC3=C(C(=C(C(=C3C=C12)CCC)CCC)CCC)CCC)CCC)C(=O)OC)C(=O)OC | C36H50O4
reactant | water | O | H2O
reactant | sulfuric acid | 2N | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2,3-Bis(hydroxymethyl)-1,4,5,6,7,8-hexapropylanthracene | 13.846 mmols, 6.637 g, yield was 98% | OCC1=C(C2=CC3=C(C(=C(C(=C3C=C2C(=C1CO)CCC)CCC)CCC)CCC)CCC)CCC | C34H50O2
